* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADP5054_chan3_4.asc
* Generated by LTspice 24.1.9 for Windows.
R1 IN N002 10K
R2 N002 0 10K
C1 N001 N003 100n
Cout OUT 0 8.12µ
L1 N003 OUT 3.3µ Rser=100m
R4 OUT N006 34.8K
R5 N006 0 23.2K
C3 N010 0 1µ
R7 N009 0 31.6K
C4 N005 N004 2.2n
R3 N004 0 1.82K
C5 OUT N006 47p
Rload OUT 0 1
R8 N008 N010 10K
X§U2 N009 N007 N010 N002 IN N001 N003 0 N006 N005 N008 0 ADP5054_chan3_4
V1 IN 0 12
C2 N013 N014 100n
Cout1 OUT 0 8.12µ
C6 N016 0 1µ
R13 N018 0 31.6K
R15 N015 N016 10K
X§U1 N018 N012 N016 N002 IN N013 N014 N017 N006 N005 N015 0 ADP5054_chan3_4
R9 N016 N017 400k
R10 N017 0 300k
A1 N011 0 0 0 0 N012 N007 0 SCHMITT Vt=0.5 vh=8m Vhigh=5 Vlow=0
L2 N014 OUT 3.3µ Rser=100m
V2 N011 0 PULSE(0 5 0 10n 10n 833n 1.666u)
.tran 2.5m startup
* The schematic simulates channels 3 and 4 in parallel.\nNotice how the CFG, COMP, and FB pins are configured\nThis is different than the real world.  Channels are synced\nto out of phase clocks in order to simulate their phase relationship.
.lib ADP5054_chan3_4.sub
.backanno
.end
